data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1123,1221,[CH3:13][C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[CH-:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:17]([CH3:18])[C:14]2([CH3:13])[C:15]#[N:16],water,298.15,13.0960318167215,-30.0239733050212
4773,5451,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19](-[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[o+:26]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17](=[O:18])[C:19]2([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[O:26]1,water,298.15,12.65008050859261,-6.084918171935184
3835,4389,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[NH+:17][C-:18]([CH3:19])[CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[NH:17][C:18]1([CH3:19])[CH3:20],water,298.15,30.47665194687301,-0.9130783203909378
874,947,[CH3:1][O:2][C:3]#[C:4][F:5].[CH3:6][NH:7][C:8](=[O:9])[C-:10]([C:11]#[N:12])[N+:13]([CH3:14])=[C:15]([C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH3:1][O:2][C:3]1=[C:4]([F:5])[C:15]([C:16](=[O:17])[O:18][CH3:19])([C:20](=[O:21])[O:22][CH3:23])[N:13]([CH3:14])[C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:11]#[N:12],water,298.15,25.03954484109534,-67.72746503335873
1093,1191,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[N+:18]([CH3:19])=[CH:20][C:21](=[O:22])[O:23][CH3:24].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]#[N:17])[N:18]([CH3:19])[CH:20]2[C:21](=[O:22])[O:23][CH3:24],water,298.15,20.02490043890212,-29.72082495775733
1588,1757,[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1.[N:15]#[C:16][c:17]1[nH+:18][c-:19](-[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[c:26](=[O:27])[o:28]1>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]1([c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[NH:18][C:17]2([C:16]#[N:15])[O:28][C:26]1=[O:27],water,298.15,17.09192546773898,-20.056327470773105
4840,5522,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]([CH3:18])[C:19]1([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,34.894127767320484,-10.544835461788136
2709,3009,[CH3:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:17]([C:15]([CH3:14])=[O:16])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:18]=[C:19]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,19.492150473024942,-50.69330376122667
1113,1211,[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([CH3:18])[C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:21](=[O:22])[O:23][CH3:24])[O:16][C:17]2([CH3:18])[C:19]#[N:20],water,298.15,9.817349767399444,-46.685910010090296
2490,2765,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][N+:18]([CH3:19])=[C:20]([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[NH:26][CH3:27].[N:1]#[C:2][CH:3]1[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[N:1]#[C:2][CH:3]1[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:20]([C:21]([CH3:22])=[O:23])([C:24](=[O:25])[NH:26][CH3:27])[N:18]([CH3:19])[CH:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,21.84170317153428,-44.13026523289298
1248,1364,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([N+:17]#[C:18][C:19](=[O:20])[O:21][CH3:22])[C:23]([CH3:24])=[O:25].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:18]([C:19](=[O:20])[O:21][CH3:22])=[N:17][C:16]3([C:14]([NH:13][CH3:12])=[O:15])[C:23]([CH3:24])=[O:25],water,298.15,12.983901565681409,-52.4879004943428
